.title KiCad schematic
.save all
.probe alli
.probe p(V1)
.probe p(L1)
.probe p(R1)
.probe p(C1)
V1 Net-_R1-Pad1_ GND DC 1 
L1 Net-_C1-Pad1_ GND 1m
R1 Net-_R1-Pad1_ Net-_C1-Pad1_ 500
C1 Net-_C1-Pad1_ GND 1u
.end
